* C:\Users\You\Documents\Project-Tally\LineControlCircuit.asc
XU1 N007 N004 N002 Vcc 0 LTC2054
XU2 N003 N002 N006 Vcc 0 LTC2054
R1 Vcc N003 20k
R2 N003 0 10k
V1 Vcc 0 3.3
C1 N004 N002 1µ
R3 N004 0 1k
R4 N006 0 10k
V2 N001 0 PULSE(0 3.3 10e-4 1e-9 1e-9 1e-4 20e-4 1)
V3 -Vcc 0 -3.3
R5 N007 N001 1k
C2 N007 0 1µ
M1 N004 N001 N002 N002 NMOS
M2 N008 N005 0 0 2N7002
M3 N008 N005 Vcc Vcc FDC638P
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\You\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 200e-4
.lib LTC2.LIB
.backanno
.end
